US04022833
Condensation of 1-pentene oxide and 1,11-undecanediamine affords N,N'-(1,11-undecylene)-bis[2-hydroxypentylamine] (I: R= CH3 (CH2)2, R' = H, X= (CH2)11, Z= H).

reactant | 1-pentene oxide | C1C(CCC)O1 | C5H10O
reactant | 1,11-undecanediamine | C(CCCCCCCCCCN)N | C11H26N2
product | N,N'-(1,11-undecylene)-bis[2-hydroxypentylamine] | C(CCCCCCCCCCNCC(CCC)O)NCC(CCC)O | C21H46N2O2
